$ CD4007, version: cd4007n_200402idvg 
$ Generated using Matlab automation script. 


$ BEGIN CIDER 

.model CD4007UBENUMOSN numos
$ -- y Grid 
$ ---- GOX 
+ y.mesh (location = -64.0000e-3) (node = 1)
+ y.mesh (location = -48.0000e-3) (node = 2)
+ y.mesh (location = -32.0000e-3) (node = 3)
+ y.mesh (location = -16.0000e-3) (node = 4)
+ y.mesh (location = 0.0000e-3) (node = 5)
$ ---- Channel and S/D 
+ y.mesh (location = 20.0000e-3) (node = 6)
+ y.mesh (location = 48.4511e-3) (node = 7)
+ y.mesh (location = 86.9893e-3) (node = 8)
+ y.mesh (location = 139.1911e-3) (node = 9)
+ y.mesh (location = 209.9008e-3) (node = 10)
+ y.mesh (location = 305.6803e-3) (node = 11)
+ y.mesh (location = 435.4180e-3) (node = 12)
+ y.mesh (location = 611.1537e-3) (node = 13)
+ y.mesh (location = 849.1956e-3) (node = 14)
+ y.mesh (location = 1171.6341e-3) (node = 15)
+ y.mesh (location = 1608.3918e-3) (node = 16)
+ y.mesh (location = 2200.0000e-3) (node = 17)
+ y.mesh (location = 3000.0000e-3) (node = 18)
$ ---- Mid substrate 
+ y.mesh (location = 3800.0000e-3) (node = 19)
+ y.mesh (location = 4911.8170e-3) (node = 20)
+ y.mesh (location = 6290.4701e-3) (node = 21)
+ y.mesh (location = 8000.0000e-3) (node = 22)
+ y.mesh (location = 10000.0000e-3) (node = 23)
+ 
$ -- x Grid 
$ ---- Body well 
+ x.mesh (location = -35000.0000e-3) (node = 1)
+ x.mesh (location = -30000.0000e-3) (node = 2)
+ x.mesh (location = -25000.0000e-3) (node = 3)
+ x.mesh (location = -20000.0000e-3) (node = 4)
$ ---- Body-Source 
+ x.mesh (location = -17500.0000e-3) (node = 5)
+ x.mesh (location = -15000.0000e-3) (node = 6)
+ x.mesh (location = -12500.0000e-3) (node = 7)
+ x.mesh (location = -10000.0000e-3) (node = 8)
$ ---- Mid source 
+ x.mesh (location = -7500.0000e-3) (node = 9)
+ x.mesh (location = -4980.0000e-3) (node = 10)
+ x.mesh (location = -3000.0000e-3) (node = 11)
+ x.mesh (location = -2000.0000e-3) (node = 12)
$ ---- Near source 
+ x.mesh (location = -1000.0000e-3) (node = 13)
+ x.mesh (location = -200.0000e-3) (node = 14)
+ x.mesh (location = 0.0000e-3) (node = 15)
$ ---- Channel near source 
+ x.mesh (location = 200.0000e-3) (node = 16)
+ x.mesh (location = 442.1759e-3) (node = 17)
+ x.mesh (location = 732.7869e-3) (node = 18)
+ x.mesh (location = 1081.5201e-3) (node = 19)
+ x.mesh (location = 1500.0000e-3) (node = 20)
+ x.mesh (location = 2000.0000e-3) (node = 21)
$ ---- Channel center 
+ x.mesh (location = 2500.0000e-3) (node = 22)
+ x.mesh (location = 3000.0000e-3) (node = 23)
+ x.mesh (location = 3500.0000e-3) (node = 24)
+ x.mesh (location = 4000.0000e-3) (node = 25)
+ x.mesh (location = 4500.0000e-3) (node = 26)
+ x.mesh (location = 5000.0000e-3) (node = 27)
$ ---- Channel near drain 
+ x.mesh (location = 5500.0000e-3) (node = 28)
+ x.mesh (location = 5961.8362e-3) (node = 29)
+ x.mesh (location = 6376.3046e-3) (node = 30)
+ x.mesh (location = 6748.2634e-3) (node = 31)
+ x.mesh (location = 7082.0725e-3) (node = 32)
+ x.mesh (location = 7381.6449e-3) (node = 33)
+ x.mesh (location = 7650.4919e-3) (node = 34)
+ x.mesh (location = 7891.7648e-3) (node = 35)
+ x.mesh (location = 8108.2918e-3) (node = 36)
+ x.mesh (location = 8302.6109e-3) (node = 37)
+ x.mesh (location = 8476.9998e-3) (node = 38)
+ x.mesh (location = 8633.5027e-3) (node = 39)
+ x.mesh (location = 8773.9540e-3) (node = 40)
+ x.mesh (location = 8900.0000e-3) (node = 41)
+ x.mesh (location = 9000.0000e-3) (node = 42)
$ ---- Near drain 
+ x.mesh (location = 9200.0000e-3) (node = 43)
+ x.mesh (location = 9612.8440e-3) (node = 44)
+ x.mesh (location = 10190.8257e-3) (node = 45)
+ x.mesh (location = 11000.0000e-3) (node = 46)
+ x.mesh (location = 12000.0000e-3) (node = 47)
$ ---- Mid drain 
+ x.mesh (location = 13000.0000e-3) (node = 48)
+ x.mesh (location = 15500.0000e-3) (node = 49)
+ x.mesh (location = 18000.0000e-3) (node = 50)
+ 
$ -- Regions 
$ ---- substrate 
+ region (num=1 material=1) y.l = 0.0000e-3
$ ---- GOX 
+ region (num=2 material=2) y.h = 0.0000e-3
+ 
$ -- Materials 
+ material num=1 silicon
+ mobility material=1 concmod=sg fieldmod=sg
+ Mobility Material=1 elec major MuMax=1200.0 MuMin=200.0 Vsat=3.2e7
+ Mobility Material=1 elec MuS=600.0 EC.A=3.0e5
+ mobility material=1 elec minor MuMax=1200.0 MuMin=200.0
+ mobility material=1 hole major
+ mobility material=1 hole minor
+ material num=2 oxide
+ 
$ -- Contacts and workfunction 
$ ---- Drain 
+ elec num=1 (y.l = 0.0000e-3 y.h = 0.0000e-3) (x.l = 12000.0000e-3 x.h = 16000.0000e-3)
$ ---- Gate contact 
+ elec num=2 (y.l = -64.0000e-3 y.h = -64.0000e-3) (x.l = 0.0000e-3 x.h = 9000.0000e-3)
$ ---- Source 
+ elec num=3 (y.l = 0.0000e-3 y.h = 0.0000e-3) (x.l = -6000.0000e-3 x.h = -3000.0000e-3)
$ ---- Body 
+ elec num=4 (y.l = 0.0000e-3 y.h = 0.0000e-3) (x.l = -30000.0000e-3 x.h = -25000.0000e-3)
+ contact num=1 workf=4.0500
+ contact num=2 workf=4.0500
+ contact num=3 workf=4.0500
+ contact num=4 workf=5.1700
+ 
$ -- Doping profiles 
$ ---- p subs 
+ doping Domains = 1 Uniform P.Type Conc = 1e16
$ ---- Threshold Adjustment Diffuse 
+ doping Domains = 1 Gaussian Lat.Erfc Y.Axis P.Type y.l=0.0 y.h=0.5 x.l=-0 x.h=10 Peak.Conc=2e16 Location=0.1 Char.Length=0.8 Ratio.Lat=0.8
$ ---- Body Diffuse 
+ doping Domains = 1 Gaussian Lat.Erfc Y.Axis P.Type y.l=0.0 y.h=3.0 x.l=-30 x.h=-20 Peak.Conc=2e20 Location=0 Char.Length=0.6 Ratio.Lat=0.8
$ ---- Source Diffuse 
+ doping Domains = 1 Gaussian Lat.Erfc Y.Axis N.Type y.l=0.0 y.h=3.0 x.l=-10 x.h=0 Peak.Conc=2e20 Location=0 Char.Length=0.6 Ratio.Lat=0.8
$ ---- Drain Diffuse 
+ doping Domains = 1 Gaussian Lat.Erfc Y.Axis N.Type y.l=0.0 y.h=3.0 x.l=9.0 x.h=18.0 Peak.Conc=2e20 Location=0 Char.Length=0.6 Ratio.Lat=0.8
+ 
+ models concmob fieldmob
+ method ac=direct ^onec
+ 
+ interface domain=1 neighbor=2 x.l=0 x.h=8.0 layer.width=0.5
+ models surfmob transmob ^matchmob

$ Total grid points X23 x Y50 = 1150 

$ END OF CIDER 


$ PSPICE Schematics Netlist 
VId VPP VDD 0
MN1 VDD VGG 0 0 CD4007UBENUMOSN w=298u
* .save i(VId) *
VVDS VPP 0   DC  0
VVGS VGG 0   DC  0
.dc VVGS 0.00 5.00 0.25 VVDS 0.05 0.05 0.50
$ VGS x VDS sweep points: 51 x 1 = 51  
.print dc VPP VGG VPP
.end
