test of integrated degradation monitor

* NMOS transistor with const drain voltage

.lib "$PDK_ROOT/$PDK/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

.include "aging_par_ng.scs"

* the voltage sources: 
Vdd vdd gnd DC -1.8
Vss vss 0 0
V1 in gnd dc 0 pulse(0 -1.8 0p 100p 100p 0.5n 2n)

xm02 vdd in vss vss sg13_lv_pmos  l=0.15u  w=0.99u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
*adegmon1 %v([z a vss vss]) mon degmon1
*.model degmon1 degmon (tfuture=315336e4 l=0.15e-6 devmod="sg13_lv_nmos")

* simulation command: 
.tran 1ps 20ns 0 10p

.options method=gear

.control
pre_osdi ../lib/ngspice/psp103_nqs.osdi
pre_osdi ../lib/ngspice/psp103.osdi
run
rusage
plainsim
run
degsim
run
*set nolegend
set xbrushwidth=2
* plainsim, degsim
plot tran2.Vss#branch Vss#branch
.endc

.end